data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(N(C)C(=O)C2=CCCC2)c(Br)cc1Cl.[Pd]", "products": "COc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1Cl"}, {"reactants": "COc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1Cl", "products": "COc1cc2c(cc1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc2c(cc1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc2c(cc1Cl)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(C)C2F)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)cc(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(F)cc(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(F)cc(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)cc(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(F)cc(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2cc(F)cc(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12COC(F)(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12COC(F)(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(F)(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2.[O-]C", "products": "COC12COC(F)(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(F)(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2", "products": "COC12COC(F)(O1)C1C(=O)C12"}, {"reactants": "COC12COC(F)(O1)C1C(=O)C12.[O-]C", "products": "COC12COC(F)(O1)C1C2C1([O-])OC"}, {"reactants": "COC12COC(F)(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(OC)COC1(F)O2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1c(Cl)cccc1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1c(Cl)cccc1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1c(Cl)cccc1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1c(Cl)cccc1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1c(Cl)cccc1Cl)C2(C)C", "products": "C[C+]1C2(c3c(Cl)cccc3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3c(Cl)cccc3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2c(Cl)cccc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2c(Cl)cccc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2c(Cl)cccc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2c(Cl)cccc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2c(Cl)cccc2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2c(Cl)cccc2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3c(Cl)cccc3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3c(Cl)cccc3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3c(Cl)cccc3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "COC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "COC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "COC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "COC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "COC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(OC)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(OC)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(OC)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(OC)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "COC1[C@H](C)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "CCOC12COC(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "CCOC12COC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "CCOC12COC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2.[O-]C", "products": "CCOC12COC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "CCOC12COC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2", "products": "CCOC12COC(O1)C1C(=O)C12"}, {"reactants": "CCOC12COC(O1)C1C(=O)C12.[O-]C", "products": "CCOC12COC(O1)C1C2C1([O-])OC"}, {"reactants": "CCOC12COC(O1)C1C2C1([O-])OC.CO", "products": "CCOC12COC(O1)C(C(=O)OC)C2"}]}
